US06211215B1
To a solution of 4-[4-[3-(1-imidazolyl)propyl]-phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole (300 mg) in ethanol (100 ml) was added palladium-carbon (5%, wet, 300 mg). The mixture was subjected to catalytic hydrogenation at room temperature under atmospheric pressure. The catalyst was filtered off. The filtrate was concentrated to leave a crystalline product, which was recrystallized from ethyl acetate-hexane to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-phenylethyl)oxazole (170 mg, 57%) as colorless prisms, mp 67-68° C.

reactant | 4-[4-[3-(1-imidazolyl)propyl]-phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | 300 mg | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=C1 | C24H23N3O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 300 mg | [C].[Pd]
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-phenylethyl)oxazole | 170 mg, 57% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(OC2)CCC2=CC=CC=C2)C=C1 | C24H25N3O2
